US07906655B2
Sodium azide (1.79 g, 27.48 mmol) was added in one portion to a solution of (S)-tert-butyl 2-(6-(2-chloroacetyl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate (10.0 g, 27.48 mmol) in acetonitrile (200 mL) and stirred at 60° C. for 16 h. The reaction mixture was concentrated to ⅕ volume, diluted with EtOAc, and washed with water and brine prior to being dried (Na2SO4) and filtered. Concentration gave J4 (S)-tert-butyl 2-(6-(2-azidoacetyl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate (6.8 g, 48%) as a golden orange foam. 1H NMR (500 MHz, DMSO-d6) δ: 8.22/8.03 (s, 1H), 7.80-7.75 (m, 1H), 7.65/7.56 (d, J=8.5 Hz, 1H), 4.99-4.93 (m, 3H), 3.60 (br s, 1H), 3.46-3.41 (m, 1H), 2.38-2.27 (m, 1H), 2.01-1.89 (m, 3H), 1.40/1.06 (s, 9H). LC (D-Cond. 2): RT=1.97 min; LC/MS: Anal. Calcd. for [M+H]+ C18H23N6O3: 371.19. found: 371.32. HRMS: Anal. Calcd. for [M+H]+ C18H23N6O3: 371.1832. found: 371.1825.

reactant | Sodium azide | 27.48 mmol, 1.79 g | [N-]=[N+]=[N-].[Na+]
reactant | (S)-tert-butyl 2-(6-(2-chloroacetyl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate | 27.48 mmol, 10.0 g | ClCC(=O)C=1C=CC2=C(NC(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)C1 | C18H22ClN3O3
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (S)-tert-butyl 2-(6-(2-azidoacetyl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate | 6.8 g, 48% | N(=[N+]=[N-])CC(=O)C=1C=CC2=C(NC(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)C1 | C18H22N6O3
